US05780482
2-Chloro-5-nitropyridine (30.0 g) was added to a solution of sodium metal (4.4 g) in absolute ethanol (250 ml) under a nitrogen atmosphere. The mixture was boiled under reflux for 4 hours, then cooled slightly and filtered. The filtrate was cooled in ice and filtered to give 2-ethoxy-5-nitropyridine, m.p. 85°-88° C.

reactant | 2-Chloro-5-nitropyridine | 30.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium | 4.4 g | [Na] | Na
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | 2-ethoxy-5-nitropyridine | C(C)OC1=NC=C(C=C1)[N+](=O)[O-] | C7H8N2O3
